### PR TITLE
feat(Combinatorics/SimpleGraph/Maps): `map` lemmas about support/top/bot

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

- [x] depends on: #38432

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -120,6 +120,19 @@ theorem support_map (f : V ↪ W) (G : SimpleGraph V) :
...
 
+theorem support_map_subset (f : V → W) (G : SimpleGraph V) :
+    (G.map f).support ⊆ f '' G.support :=
+  fun _ ⟨_, _, u, v, hadj, hu, _⟩ ↦ ⟨u, ⟨v, hadj⟩, hu⟩
+
+theorem map_top {f : V → W} (hf : f.Surjective) : (completeGraph V).map f = completeGraph W := by
+  ext u v
+  exact ⟨And.left, fun h ↦ ⟨h, Relation.le_map_of_onFun_le hf (fun _ _ ↦ ne_of_apply_ne f) u v h⟩⟩
+
+@[simp]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
@[simp, grind =]
```
